US05225607
A solution of 4-bromo-2,6-difluorophenol (1.04 g) in dry N,N-dimethylformamide (10 cm3) was added over 5 minutes to a well stirred mixture of sodium hydride (0.24 g of a 50% dispersion in oil) in dry N,N-dimethylformamide (5 cm3). After 30 minutes, ethyl iodide (0.78 g) was added in one portion. After stirring the reaction mixture for 30 minutes, analysis by gas liquid chromatography appeared to show no reaction; further ethyl iodide (5 g) was therefore added, and the reaction mixture was heated at 80° C. for 15 minutes. Later analysis showed similar retention times for both starting material and product, and the reaction may already have been complete prior to the second addition of ethyl iodide. The reaction mixture was washed, poured into water, and extracted with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulphate and evaporated under reduced pressure to give a red oil. The oil was purified by column chromatography on a silica gel support, eluting with an 8:1 parts by volume mixture of n-hexane and ethyl acetate to give 4-bromo-2,6-difluorophenetole as a colourless oil (1.02 g).

reactant | 4-bromo-2,6-difluorophenol | 1.04 g | BrC1=CC(=C(C(=C1)F)O)F | C6H3BrF2O
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | 0.78 g | C(C)I | C2H5I
reactant | ethyl iodide | 5 g | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 cm3 | CN(C=O)C | C3H7NO
product | 4-bromo-2,6-difluorophenetole | 1.02 g | BrC1=CC(=C(C(=C1)F)OCC)F | C8H7BrF2O
